US08563624B2
9.81 g (37.3 mmol) N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine was dissolved in 24 mL dioxane and 7.2 mL concentrated hydrochloric acid. The mixture was heated to reflux for one hour. The mixture was allowed to cool down to room temperature and diluted with 50 mL water. The mixture was made alkaline, using a 10% ammonia solution. 3,5-di-tert.butyl-4-hydroxybenzyl amine precipitated from the medium, was isolated by filtration and dried. 8.5 g (97%) of 3,5-di-tert.butyl-4-hydroxybenzyl amine was isolated (m.p.: 159-9° C.). 3,5-di-tert.butyl-4-hydroxybenzyl amine has a tendency to lose ammonia upon heating, forming the corresponding di- and tribenzyl derivatives.

reactant | N-formyl-3,5-di-tert.butyl-4-hydroxybenzyl-amine | 37.3 mmol, 9.81 g | C(=O)NCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H25NO2
reactant | ammonia | N | H3N
solvent | dioxane | 24 mL | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 7.2 mL | Cl | ClH
solvent | water | 50 mL | O | H2O
product | 3,5-di-tert.butyl-4-hydroxybenzyl amine | 8.5 g, 97% | C(C)(C)(C)C=1C=C(CN)C=C(C1O)C(C)(C)C | C15H25NO
